US06576627B1
Under an argon atmosphere, a dichloromethane (15 ml) solution of the 2-methyl-1-(3-phenylpropanoylamino)propylphosphinic acid (162 mg) obtained in the above step (a) was added with benzyl (S)-6-benzyloxycarbonylamino-2-hydroxyhexanoate (228 mg) which was obtained from 6-amino-2-hydroxyhexanoic acid described in Chem. Pharm. Bull., 621(1976) in a conventional manner, N-(dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (180 mg), and dimethylaminopyridine (38.7 mg), and then the mixture was stirred at room temperature for 16 hours. The organic substances were extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography (10 g, chloroform:methanol=10:1) to obtain benzyl (S)-6-(benzyloxycarbonylamino)-2-((2-methyl-1-(3-phenylpropanoylamino)propyl)phosphinoyloxy)hexanoate (117 mg, 31%). This compound was subjected to the measurement of molecular weight and then used in the following reaction.

reactant | 2-methyl-1-(3-phenylpropanoylamino)propylphosphinic acid | 162 mg | CC(C(NC(CCC1=CC=CC=C1)=O)P(O)=O)C | C13H20NO3P
reactant | benzyl (S)-6-benzyloxycarbonylamino-2-hydroxyhexanoate | 228 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(=O)OCC1=CC=CC=C1)O | C21H25NO5
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 6-amino-2-hydroxyhexanoic acid | NCCCCC(C(=O)O)O | C6H13NO3
